US05849735
N-(2-Hydroxyphenyl)-2-chloro-3-pyridinecarboxamide
As described in J. Med. Chem., 37, 519 (1994), a solution of 1.09 g of 2-aminophenol in 15 ml of tetrahydrofuran is added dropwise to a mixture of 2.1 g of triethylamine and 2.33 g of 2-chloropyridine-3-carbonyl chloride hydrochloride in 10 ml of tetrahydrofuran. The mixture is stirred at room temperature for one hour under argon and then refluxed for one hour. The solvent is removed under vacuum and the residue triturated with water: The solid is filtered off and washed with water to give 1.02 g of solid. Recrystallization from 2-propanol gives crystals, m.p. 145°-146° C.

reactant | 2-aminophenol | 1.09 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloropyridine-3-carbonyl chloride hydrochloride | 2.33 g | Cl.ClC1=NC=CC=C1C(=O)Cl
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(2-Hydroxyphenyl)-2-chloro-3-pyridinecarboxamide | 1.02 g | OC1=C(C=CC=C1)NC(=O)C=1C(=NC=CC1)Cl | C12H9ClN2O2
